US08202873B2
{4-[4-(5-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetonitrile hydrochloride
Stir together 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (177 mg, 0.480 mmol), 4-(cyanomethyl)benzene boronic acid (93 mg, 0.576 mmol), potassium carbonate (159 mg, 1.15 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.003 g, 0.003 mmol) and water (1 mL), in N,N-dimethylacetamide (2 mL) at room temperature under nitrogen, then heat at 120° C. for 4 hr. Cool to room temperature, dilute with water (5 mL) and extract with DCM (3×20 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®, concentrate and purify (silica gel chromatography, eluting with 0:100 to 5:95 methanol:DCM). Dry in a vacuum oven over night, then dissolve the yellow oil in acetonitrile. Add 2 M aq. HCl and water then lyophilize to give the title compound as a dark yellow powder (168 mg, 72%). MS (ES): m/z=450.2 [M+H].

reactant | 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.480 mmol, 177 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C1=CC=CC=C1 | C19H21ClN6
reactant | 4-(cyanomethyl)benzene boronic acid | 0.576 mmol, 93 mg | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
reactant | potassium carbonate | 1.15 mmol, 159 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.003 mmol, 0.003 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | {4-[4-(5-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetonitrile hydrochloride | 168 mg, 72% | Cl.CC1=C(C=NN1C1=CC=CC=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CC#N | InChI=1S/C27H27N7.ClH/c1-21-24(19-31-34(21)25-5-3-2-4-6-25)20-32-15-17-33(18-16-32)27-26(29-13-14-30-27)23-9-7-22(8-10-23)11-12-28;/h2-10,13-14,19H,11,15-18,20H2,1H3;1H
